US08957080B2
To a solution of 1-[[(2S)-4,4-difluoropyrrolidin-2-yl]methyl]-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (850 mg, crude), 2-cyanoacetic acid (120 mg, 1.31 mmol, 1.29 equiv) and TEA (650 mg, 6.45 mmol, 5.00 equiv) in dichloromethane (30 mL), was added HATU (500 mg, 1.32 mmol, 1.29 equiv). The resulting solution was stirred at room temperature overnight. The mixture was diluted with DCM, washed with HCl (2N), sat. NaHCO3, brine, dried over sodium sulfate and concentrated. The residue was submitted to chromatography (SiO2, DCM: MeOH=30:1) to give 0.4 g (77%) of 3-[(2S)-2-[[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl]-4,4-difluoropyrrolidin-1-yl]-3-oxopropanenitrile as a pale yellow solid.

reactant | 1-[[(2S)-4,4-difluoropyrrolidin-2-yl]methyl]-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 850 mg | FC1(C[C@H](NC1)CN1N=C(C=2C1=NC=NC2N)C2=C(C=C(C=C2)OC2=CC=CC=C2)F)F | C22H19F3N6O
reactant | 2-cyanoacetic acid | 1.31 mmol, 120 mg, 1.29 equiv | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 1.32 mmol, 500 mg, 1.29 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[(2S)-2-[[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl]-4,4-difluoropyrrolidin-1-yl]-3-oxopropanenitrile | 0.4 g, 77% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H]2N(CC(C2)(F)F)C(CC#N)=O | C25H20F3N7O2
